US08664230B2
To a solution of tert-butyl 4-(6-(5-(phenylsulfonamido)-pyridine-3-yl)pyrido[3,2-d]pyrimidin-4-yloxy)piperidine-1-carboxylate (0.15 g, 0.267 mmol) in DCM (1.333 ml) was added TFA (0.205 ml, 2.67 mmol) at room temperature. After stirring for 30 min at room temperature, the reaction mixture was evaporated in vacuo, to give N-(5-(4-(piperidin-4-yloxy)pyrido[3,2-d]pyrimidin-6-yl)pyridin-3-yl)benzenesulfonamide (0.123 g, 100%) as a yellow oil, which was used in the next step without further purification. 1H-NMR (CDCl3, Varian 400 MHz) δ 1.87-1.92 (2H, m), 2.15-2.22 (2H, m), 2.79-2.85 (2H, m), 3.20-3.24 (2H, m), 5.58-5.62 (1H, m), 7.39-7.42 (3H, m), 7.92-7.94 (2H, m), 8.18-8.20 (2H, m), 8.28 (1H, s), 8.59 (1H, d, J=1.6 Hz), 8.74 (1H, s).

reactant | tert-butyl 4-(6-(5-(phenylsulfonamido)-pyridine-3-yl)pyrido[3,2-d]pyrimidin-4-yloxy)piperidine-1-carboxylate | 0.267 mmol, 0.15 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C=NC1)C=1C=CC=2N=CN=C(C2N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C28H30N6O5S
reactant | TFA | 2.67 mmol, 0.205 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.333 ml | C(Cl)Cl | CH2Cl2
product | N-(5-(4-(piperidin-4-yloxy)pyrido[3,2-d]pyrimidin-6-yl)pyridin-3-yl)benzenesulfonamide | 0.123 g, 100% | N1CCC(CC1)OC=1C2=C(N=CN1)C=CC(=N2)C=2C=C(C=NC2)NS(=O)(=O)C2=CC=CC=C2 | C23H22N6O3S
